US07067517B2
Methyl-phenyl-carbamic acid 5-benzoylamino-pyridin-2-yl ester
A solution of N-(6-hydroxy-pyridin-3-yl)-benzamide (0.64 g, 3.00 mmol), N-methyl-N-phenylcarbamoyl chloride (0.51 g, 3.00 mmol) and 1,4-diazabicyclo[2.2.2]octane (0.34 g, 3.00 mmol) in dimethylformamide (15 ml) was stirred at room temperature for 1 hour. Water was added and the precipitates were collected by suction. The solids were dissolved in dichloromethane and the solution was dried over sodium sulphate, filtered and evaporated in vacuo. The residue was dissolved in ethyl acetate and filtered over a short pad of silica. Evaporation of the solvent in vacuo yielded the title compound (0.70 g, 68% yield) as a thick oil.

reactant | N-(6-hydroxy-pyridin-3-yl)-benzamide | 3.00 mmol, 0.64 g | OC1=CC=C(C=N1)NC(C1=CC=CC=C1)=O | C12H10N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | 3.00 mmol, 0.51 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1,4-diazabicyclo[2.2.2]octane | 3.00 mmol, 0.34 g | N12CCN(CC1)CC2 | C6H12N2
reactant | Water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | Methyl-phenyl-carbamic acid 5-benzoylamino-pyridin-2-yl ester | 0.70 g, 68% yield | C(C1=CC=CC=C1)(=O)NC=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O | C20H17N3O3
